2166-03-20 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had a few episodes of acute dyspnea overnight. Improved on CPAP.
   Received Lasix 80 mg IV x 2, diuresed well.
 EKG - At [**2166-3-19**] 05:30 PM
 NON-INVASIVE VENTILATION - START [**2166-3-19**] 06:00 PM
 NON-INVASIVE VENTILATION - STOP [**2166-3-19**] 09:38 PM
 NON-INVASIVE VENTILATION - START [**2166-3-20**] 02:48 AM
 BLOOD CULTURED - At [**2166-3-20**] 05:48 AM
   peripheral
 NASAL SWAB - At [**2166-3-20**] 05:48 AM
   for mrsa
 NON-INVASIVE VENTILATION - STOP [**2166-3-20**] 06:26 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Metoprolol - [**2166-3-19**] 10:00 PM
   Heparin Sodium - [**2166-3-19**] 10:43 PM
   Furosemide (Lasix) - [**2166-3-19**] 11:48 PM
   Morphine Sulfate - [**2166-3-20**] 03:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-20**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 67 (63 - 97) bpm
   BP: 112/51(66) {106/44(62) - 154/113(105)} mmHg
   RR: 27 (19 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   LOS fluid balance 2L negative
   Total In:
                                                                     82 mL
                                                                     69 mL
   PO:
             TF:
   IVF:
                                                                     82 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                  1,140 mL
   Urine:
                                                                  1,140 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,058 mL
                                                                 -1,071 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 814 (351 - 1,002) mL
   PS : 5 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.46/37/55/27/2
   Ve: 6.3 L/min
   PaO2 / FiO2: 92
   Physical Examination
   GENERAL: Resting with high flow mask on. In good spirits
   HEENT: No JVD
   CARDIAC: RRR, nl S1 and S2. No murmurs
   LUNGS: Decreased crackles bilaterally compared to last night. No
   wheezes.
   EXTREMITIES: Warm. No edema.
   Labs / Radiology
   342 K/uL
   10.3 g/dL
   129 mg/dL
   2.4 mg/dL
   27 mEq/L
   4.6 mEq/L
   63 mg/dL
   100 mEq/L
   142 mEq/L
   29.5 %
   17.8 K/uL
        [image002.jpg]
                             [**2166-3-19**]  02:26 PM
                             [**2166-3-19**]  02:57 PM
                             [**2166-3-19**]  05:59 PM
                             [**2166-3-19**]  09:03 PM
                             [**2166-3-20**]  05:15 AM
   WBC
   13.1
   19.5
   17.8
   Hct
   30.3
   30.5
   29.5
   Plt
   333
   337
   342
   Cr
   2.5
   2.4
   TropT
   0.67
   TCO2
   29
   27
   Glucose
   122
   129
   Other labs: PT / PTT / INR:15.5/39.2/1.4, CK / CKMB /
   Troponin-T:195/8/0.67, Lactic Acid:2.8 mmol/L, Ca++:8.8 mg/dL, Mg++:2.2
   mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   86M with history of HTN, former smoker, and likely metastatic RCC who
   presented with NSTEMI and hypoxia, found to have depressed EF and
   transferred to ICU for respiratory distress with increasing oxygen
   requirement.
   1. Hypoxia.  Has had increasing outpatient O2 requirement over last few
   months with more acute worsening over last 24 hours.  Received
   pre-catheterization hydration and blood products in the setting of EF
   10-15%. Has underlying COPD. Cannot rule out fibrosis of lungs, further
   exacerbating respiratory status. Clinically, some improvement of
   dyspnea with diuresis of 2L yesterday and better rate and BP control
   with BBker.
   - Continue high flow mask, wean down O2 as tolerated. Non-invasive
   ventilation as needed. Pt is full code at this time, thus OK to
   ventilate in case of respiratory failure
   - Continue Lasix to goal net fluid balance of 500cc-1L today
   - Continue Metoprolol for rate and BP control (was uptitrated to 37.5
   mg TID yesterday and tolerating it well at this time). Pt does have
   NSTEMI and very depressed EF however clinically respiratory status
   improved with rate and BP control.
   - Consider CT chest without contrast in near future to check for other
   etiologies of hypoxia such as pulm fibrosis
   - Would like to add ACEI given severely depressed EF though will defer
   given ARF
   .
   2. NSTEMI.  Troponin-T 0.67 this AM (highest so far). CK
s downward
   trending.  The severely depressed EF and global hypokinesis is
   concerning for severe LAD disease though the RV seems abnormal as
   well.  Pt likely had a silent MI several days ago.
   - Continue with ASA, plavix and heparin for now; not on integrillin due
   to ARF
   - Pt was on cardiology floor prior to transfer to ICU- will touch base
   with cardiology for further plans (?cath) and recs on length of heparin
   therapy.
   - Hct 29.5 today, no transfusions needed.
   3. Acute renal failure.  SCr in [**2-17**] was 1.6; now stable in mid-2
   Etiology is unclear though hypoperfusion in setting of AMI is possible.
   - Follow daily serum Cr especially in setting of diuresis
   4. Renal Mass with mediastinal LAD suspicious for RCC.  Unclear if
   pathology has returned from [**3-7**] mediastinoscopy. Thoracic surgery
   aware patient is in house, will follow along. No contraindication to
   anticoagulation currently.
   - Urology deemed pt non-surgical candidate; re-evaluate in several
   weeks. Signed off.
   - Discuss with outpatient oncologist
   5. Positive UTI:
   - Continue Cipro with plan for [**7-18**] day course.
   6. Elevated INR.  [**Month (only) 11**] be nutritional.  LFTs within normal limits which
   would argue against liver involvement of tumor.
   7. Anemia.  Chronic and normocytic .
   - Hct 29.5 today. Will continue to monitor.
   8. Depression.  Continue sertraline.
   FEN: NPO as pt become dyspneic off mask. Refrain from further IVF
   ACCESS: 1 PIV
   PROPHYLAXIS: Heparin gtt, bowel regimen. No indications for PPI
   CODE: Full code; discussed with patient, HCP (wife [**Name (NI) **] and son [**Doctor Last Name 2381**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-3-19**] 02:10 PM
   20 Gauge - [**2166-3-19**] 02:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2166-03-21 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: dyspnea and hypoxia
   24 Hour Events:
 EKG - At [**2166-3-20**] 08:08 AM
   - Achieved negative fluid balance
   - Cards recs: dyspnea not likely cardiac in origin, d/c heparin gtt &
   plavix, cont. b-blocker & aspirin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2166-3-20**] 10:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-21**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 68 (58 - 87) bpm
   BP: 119/57(72) {97/39(51) - 128/65(80)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
                  Total In:
                                                                    220 mL
                  PO:
                  TF:
   IVF:
                                                                    220 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    180 mL
   Urine:
                                                                  2,300 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,080 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: High flow neb
 95% face mask
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   GENERAL: Resting with high flow mask on. In good spirits
   HEENT: No JVD
   CARDIAC: RRR, nl S1 and S2. No murmurs
   LUNGS: Scattered dry crackles bilaterally. No wheezes.
   EXTREMITIES: Warm. No edema.
   Labs / Radiology
   284 K/uL
   10.0 g/dL
   102 mg/dL
   2.3 mg/dL
   32 mEq/L
   3.8 mEq/L
   76 mg/dL
   102 mEq/L
   146 mEq/L
   30.3 %
   11.4 K/uL
        [image002.jpg] N 91, L7, M2
                             [**2166-3-19**]  02:26 PM
                             [**2166-3-19**]  02:57 PM
                             [**2166-3-19**]  05:59 PM
                             [**2166-3-19**]  09:03 PM
                             [**2166-3-20**]  05:15 AM
                             [**2166-3-20**]  12:29 PM
                             [**2166-3-21**]  02:00 AM
   WBC
   13.1
   19.5
   17.8
   15.7
   11.4
   Hct
   30.3
   30.5
   29.5
   28.0
   30.3
   Plt
   333
   337
   342
   308
   284
   Cr
   2.5
   2.4
   2.4
   2.4
   2.3
   TropT
   0.67
   0.67
   0.69
   TCO2
   29
   27
   Glucose
   122
   129
   132
   122
   102
   Other labs: PT / PTT / INR:16.1/26.7/1.4, Differential-Neuts:90.9 %,
   Lymph:6.8 %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.8 mmol/L, Ca++:8.6
   mg/dL, Mg++:2.3 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   86M with history of HTN, former smoker, and likely metastatic RCC who
   presented with NSTEMI and hypoxia, found to have depressed EF and
   transferred to ICU for respiratory distress with increasing oxygen
   requirement.
   1. Hypoxia.  Has had increasing outpatient O2 requirement over last few
   months with more acute worsening over last 24 hours.  Received
   pre-catheterization hydration and blood products in the setting of EF
   10-15%. Has underlying COPD. Cannot rule out fibrosis of lungs, further
   exacerbating respiratory status. Clinically, some improvement of
   dyspnea with diuresis of 2L yesterday and better rate and BP control
   with BBker.
   - Continue high flow mask, wean down O2 as tolerated. Non-invasive
   ventilation as needed. Pt is full code at this time, thus OK to
   ventilate in case of respiratory failure
   - Continue Lasix to goal net fluid balance of 500cc-1L today
   - Continue Metoprolol for rate and BP control (was uptitrated to 37.5
   mg TID yesterday and tolerating it well at this time). Pt does have
   NSTEMI and very depressed EF however clinically respiratory status
   improved with rate and BP control.
   - Consider CT chest without contrast in near future to check for other
   etiologies of hypoxia such as pulm fibrosis
   - Would like to add ACEI given severely depressed EF though will defer
   given ARF
   .
   2. NSTEMI.  Troponin-T 0.67 this AM (highest so far). CK
s downward
   trending.  The severely depressed EF and global hypokinesis is
   concerning for severe LAD disease though the RV seems abnormal as
   well.  Pt likely had a silent MI several days ago.
   - Continue with ASA, plavix and heparin for now; not on integrillin due
   to ARF
   - Pt was on cardiology floor prior to transfer to ICU- will touch base
   with cardiology for further plans (?cath) and recs on length of heparin
   therapy.
   - Hct 29.5 today, no transfusions needed.
   3. Acute renal failure.  SCr in [**2-17**] was 1.6; now stable in mid-2
   Etiology is unclear though hypoperfusion in setting of AMI is possible.
   - Follow daily serum Cr especially in setting of diuresis
   4. Renal Mass with mediastinal LAD suspicious for RCC.  Unclear if
   pathology has returned from [**3-7**] mediastinoscopy. Thoracic surgery
   aware patient is in house, will follow along. No contraindication to
   anticoagulation currently.
   - Urology deemed pt non-surgical candidate; re-evaluate in several
   weeks. Signed off.
   - Discuss with outpatient oncologist
   5. Positive UTI:
   - Continue Cipro with plan for [**7-18**] day course.
   6. Elevated INR.  [**Month (only) 11**] be nutritional.  LFTs within normal limits which
   would argue against liver involvement of tumor.
   7. Anemia.  Chronic and normocytic .
   - Hct 29.5 today. Will continue to monitor.
   8. Depression.  Continue sertraline.
   FEN: NPO as pt become dyspneic off mask. Refrain from further IVF
   ACCESS: 1 PIV
   PROPHYLAXIS: Heparin gtt, bowel regimen. No indications for PPI
   CODE: Full code; discussed with patient, HCP (wife [**Name (NI) **] and son [**Doctor Last Name 2381**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-3-19**] 02:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2166-03-22 07:20:00 Physician Resident Progress Note
Chief Complaint: shortness of breath, hypoxia
   24 Hour Events:
   - Started ativan 0.5mg q4h prn for anxiety/respiratory distress
   - CT Chest with mod-severe emphysema & failure
   - lasix 80 mg IV x 1
   - aspirating all meds so pm meds held
   - cipro d/c'd as urine culture negative
   - Na 151, free water deficit 3L; given 500 mL KCl in D5W & sips water
   - desat to 70s while being turned this AM ->back on 100% high flow mask
   -> difficult to get good [**First Name9 (NamePattern2) 4783**] [**Location (un) 103**] but then 100% and ABG excellent.
   Able to wean back to 60% face mask.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-22**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 71 (63 - 78) bpm
   BP: 120/60(74) {100/33(50) - 129/65(77)} mmHg
   RR: 13 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
             285 mL
   PO:
             120 mL
   TF:
   IVF:
   165 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    450 mL
   Urine:
                                                                  1,705 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,705 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: 7.48/45/153/33/9
   PaO2 / FiO2: 306
   Physical Examination
   GENERAL: Awake, alert. Resting with high flow mask on. In good spirits
   HEENT: MMM. Clear oropharynx.
   NECK: Flat neck veins.
   CARDIAC: RRR, nl S1 and S2. No murmurs
   LUNGS: Scattered dry crackles bilaterally. No wheezes. Decreased breath
   sounds RL base.
   EXTREMITIES: Warm. No edema. +cyanosis of bilateral fingers. Radial
   pulses 2+ R and 1+ L. DP pulses 2+.
   Labs / Radiology
   281 K/uL
   10.4 g/dL
   87 mg/dL
   2.0 mg/dL
   33 mEq/L
   3.7 mEq/L
   78 mg/dL
   104 mEq/L
   151 mEq/L
   30.1 %
   10.5 K/uL
        [image002.jpg]
                             [**2166-3-19**]  02:26 PM
                             [**2166-3-19**]  02:57 PM
                             [**2166-3-19**]  05:59 PM
                             [**2166-3-19**]  09:03 PM
                             [**2166-3-20**]  05:15 AM
                             [**2166-3-20**]  12:29 PM
                             [**2166-3-21**]  02:00 AM
                             [**2166-3-21**]  10:01 AM
                             [**2166-3-22**]  02:17 AM
   WBC
   13.1
   19.5
   17.8
   15.7
   11.4
   10.5
   Hct
   30.3
   30.5
   29.5
   28.0
   30.3
   30.1
   Plt
   333
   337
   342
   [**Telephone/Fax (3) 4781**]
   Cr
   2.5
   2.4
   2.4
   2.4
   2.3
   2.0
   TropT
   0.67
   0.67
   0.69
   TCO2
   29
   27
   34
   Glucose
   122
   129
   132
   122
   102
   87
   Other labs: PT / PTT / INR:15.7/26.8/1.4, CK / CKMB /
   Troponin-T:126/5/0.69, Differential-Neuts:90.9 %, Lymph:6.8 %, Mono:1.9
   %, Eos:0.4 %, Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.0 mg/dL
   Imaging
   Chest XRay: Official read pending. Right sided pleural effusion
   persists.
   Assessment and Plan
   86M with history of HTN, former smoker, and likely metastatic RCC who
   presented with NSTEMI and hypoxia, found to have depressed EF and
   transferred to ICU for respiratory distress and hypoxia.
   #. Hypoxia.  Has had increasing outpatient O2 requirement over last few
   months with more acute worsening a few days ago.  Received
   pre-catheterization hydration and blood products in the setting of EF
   10-15%.  Hypoxia somewhat improved after aggressive diuresis. Has
   underlying COPD. Concern for pulmonary fibrosis, but CT chest showed
   severe emphysema and evidence of CHF,  not fibrosis. Also there is
   component for lymphangitic spread of renal tumor, but PET scan does not
   seem consistent with this. CXR mildly improved with persistent R sided
   effusion.  Episode this AM may have been poor [**Location (un) 103**] of O2 Sat monitor
   given rapid improvement, absence of tachypnea, and stable ABG; however,
   cyanotic fingers are somewhat concerning. Cyanosis resolved on later
   exam. Given patient
s underlying emphysema, will treat as COPD
   exacerbation and continue diuresis today.
   - Continue high flow mask vs face tent, wean down O2 as tolerated.
   Non-invasive ventilation as needed. Pt is full code at this time, thus
   OK to ventilate in case of respiratory failure
   - Begin solumedrol and levaquin today for COPD exacerbation. Check
   fingersticks w/ ISS while on solumedrol.
   - IV Lasix 80mg x 1 for I/O goal -500-1L today.
   - F/U sputum cultures and cytology.
   - Continue Metoprolol for rate and BP control
   - Would like to add ACEI given severely depressed EF though will defer
   given ARF
   .
   #. NSTEMI.  Troponin-T peaked at 0.69.  Cardiology does not feel that
   patient currently has ACS.  Severely depressed EF and global
   hypokinesis indicative of longer-standing cardiomyopathy, likely
   ischemic in origin.
   - Continue with ASA and beta-blocker for now; no plavix or heparin per
   cardiology. F/U further cards recs.
   #. Acute renal failure.  SCr in [**2-17**] was 1.6; slowly trending downward
   to 2.0 today.  Etiology is unclear though hypoperfusion in setting
   troponin bump is possible.  Cr continues to trend down.
   - Follow daily serum Cr.
   #. Renal Mass with mediastinal LAD suspicious for RCC.  Pathology from
   [**3-7**] mediastinoscopy showed reactive lymph nodes, no tumor burden.
   Thoracic surgery aware patient is in house, will follow along. No
   contraindication to anticoagulation currently.
   - Urology will re-evaluate patient in several weeks when acute illness
   resolved; surgery still a possible option for consideration.
   - Discuss with outpatient oncologist
   #. Positive UTI: Given Cipro x 3 days. Urine culture negative, cipro
   d/c
   #. Hypernatremia: Likely due to aggressive diuresis with NPO status. On
   D5W with KCl replacement. Would prefer to give PO free water boluses.
   Given concern for aspiration, will place NGT today and start free water
   boluses.
   - Free water bolus via NG Tube.
   - Recheck PM lytes.
   #. Elevated INR.  [**Month (only) 11**] be nutritional.  LFTs within normal limits which
   would argue against liver involvement of tumor.
   #. Anemia.  Chronic and normocytic .
   - Hct stable at 30. Will continue to monitor.
   #. Depression.  Continue sertraline.
   FEN: NPO as hypoxic off face mask and evidence of aspiration with meds.
   Will place NGT today and begin tube feeds. Unable to do formal
   speech/swallow consult and patient cannot tolerate being off face mask.
   ACCESS: 2 PIV
   PROPHYLAXIS: Heparin sc, bowel regimen. PPI.
   CODE: Full code; discussed with patient, HCP (wife [**Name (NI) **] and son [**Doctor Last Name 2381**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-3-22**] 07:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4782**], MSIV

2166-03-22 11:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo man with CAD, NSTEMI, new DCM EF%15, COPD, renal cell CA.    Was
   on [**Hospital1 2266**] service for this.  Was transfused and became hypoxemic.
   Transferred to MICU.  Was diuresed, with improvement in respiratory
   status.  Overnight weaned down to 60% face mask.
   24 Hour Events:
 SPUTUM CULTURE - At [**2166-3-22**] 04:15 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   meds on hold:
   Sertraline
   lipitor
   lopressor
   heparin s/q
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-22**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 66 (63 - 78) bpm
   BP: 125/57(72) {100/33(50) - 125/65(77)} mmHg
   RR: 14 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
             447 mL
   PO:
             120 mL
   TF:
   IVF:
   327 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    620 mL
   Urine:
                                                                  1,705 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,705 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.42/54/226/33/9
   PaO2 / FiO2: 452
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , No(t)
   Diminished: right base)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   281 K/uL
   87 mg/dL
   2.0 mg/dL
   33 mEq/L
   3.5 mEq/L
   78 mg/dL
   104 mEq/L
   151 mEq/L
   30.1 %
   10.5 K/uL
        [image002.jpg]
                             [**2166-3-19**]  02:26 PM
                             [**2166-3-19**]  02:57 PM
                             [**2166-3-19**]  05:59 PM
                             [**2166-3-19**]  09:03 PM
                             [**2166-3-20**]  05:15 AM
                             [**2166-3-20**]  12:29 PM
                             [**2166-3-21**]  02:00 AM
                             [**2166-3-21**]  10:01 AM
                             [**2166-3-22**]  02:17 AM
                             [**2166-3-22**]  08:01 AM
   WBC
   13.1
   19.5
   17.8
   15.7
   11.4
   10.5
   Hct
   30.3
   30.5
   29.5
   28.0
   30.3
   30.1
   Plt
   333
   337
   342
   [**Telephone/Fax (3) 4781**]
   Cr
   2.5
   2.4
   2.4
   2.4
   2.3
   2.0
   TropT
   0.67
   0.67
   0.69
   TCO2
   29
   27
   34
   36
   Glucose
   122
   129
   132
   122
   102
   87
   Other labs: PT / PTT / INR:15.7/26.8/1.4, CK / CKMB /
   Troponin-T:126/5/0.69, Differential-Neuts:90.9 %, Lymph:6.8 %, Mono:1.9
   %, Eos:0.4 %, Lactic Acid:1.3 mmol/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
   H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]) and severe hypoxemia:
   COPD, pulmonary edema, and large right sided effusion.  Continue
   diuresis as creatinine is improving,
   and oxygenation has improved.  Infiltrates were FDG avid on PET, but
   renal mass was not.  Worrisome for inflammatory process - as less
   likely that infiltrates are cancer given that primary mass was not FDG
   avid, but infiltrates are.  Will try to treat for PNA and with
   steroids.
   Renal cell carcinoma:  has renal mass, but not biopsied.
   hypernatremia:  replete free water
   will place NGT to start nutrition, meds, free water.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-3-22**] 07:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2166-03-23 05:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - NGT placed; TF started with free water flushes
   - Na this morning still 150 despite free water bolus 200cc x 3 per NG,
   also UOP dropping off-> gave IV D5W 250cc x 1
   - Did well on 80% ventimask, satting in high 90s.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2166-3-22**] 02:01 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-3-22**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-23**] 05:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 77 (59 - 81) bpm
   BP: 106/66(75) {89/42(57) - 129/78(83)} mmHg
   RR: 17 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
                  Total In:
                                                                  1,205 mL
                                                                    332 mL
   PO:
                                                                    120 mL
                  TF:
                                                                     85 mL
                                                                    132 mL
   IVF:
                                                                    600 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    155 mL
   Urine:
                                                                  1,560 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -355 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 97%
   ABG: 7.42/54/226/36/9
   Physical Examination
   GENERAL: Awake, alert. Resting with high flow mask on. In good spirits
   HEENT: MMM. Clear oropharynx.
   NECK: Flat neck veins.
   CARDIAC: RRR, nl S1 and S2. No murmurs
   LUNGS: Scattered dry crackles bilaterally. No wheezes. Decreased breath
   sounds RL base.
   EXTREMITIES: Warm. No edema. +cyanosis of bilateral fingers. Radial
   pulses 2+ R and 1+ L. DP pulses 2+.
   Labs / Radiology
   287 K/uL
   10.6 g/dL
   185 mg/dL
   2.0 mg/dL
   36 mEq/L
   4.2 mEq/L
   88 mg/dL
   103 mEq/L
   150 mEq/L
   32.6 %
   7.5 K/uL
        [image002.jpg]
                             [**2166-3-19**]  05:59 PM
                             [**2166-3-19**]  09:03 PM
                             [**2166-3-20**]  05:15 AM
                             [**2166-3-20**]  12:29 PM
                             [**2166-3-21**]  02:00 AM
                             [**2166-3-21**]  10:01 AM
                             [**2166-3-22**]  02:17 AM
                             [**2166-3-22**]  08:01 AM
                             [**2166-3-22**]  03:56 PM
                             [**2166-3-23**]  03:12 AM
   WBC
   19.5
   17.8
   15.7
   11.4
   10.5
   7.5
   Hct
   30.5
   29.5
   28.0
   30.3
   30.1
   32.6
   Plt
   [**Telephone/Fax (2) 4800**]
   Cr
   2.4
   2.4
   2.4
   2.3
   2.0
   1.8
   2.0
   TropT
   0.67
   0.67
   0.69
   TCO2
   27
   34
   36
   Glucose
   129
   132
   122
   102
   87
   151
   185
   Other labs: PT / PTT / INR:16.8/31.3/1.5, CK / CKMB /
   Troponin-T:126/5/0.69, Differential-Neuts:90.9 %, Lymph:6.8 %, Mono:1.9
   %, Eos:0.4 %, Lactic Acid:1.3 mmol/L, Ca++:8.9 mg/dL, Mg++:2.7 mg/dL,
   PO4:5.2 mg/dL
   Assessment and Plan
   86M with history of HTN, former smoker, and likely metastatic RCC who
   presented with possible NSTEMI and hypoxia, found to have depressed EF
   and transferred to ICU for respiratory distress and hypoxia.
   #. Hypoxia.  Has had increasing outpatient O2 requirement over last few
   months with more acute worsening a few days ago.  Received
   pre-catheterization hydration and blood products in the setting of EF
   10-15%.  Hypoxia somewhat improved after aggressive diuresis. Has
   underlying COPD. Concern for pulmonary fibrosis, but CT chest showed
   severe emphysema and evidence of CHF,  not fibrosis. Also there is
   component for lymphangitic spread of renal tumor, but PET scan does not
   seem consistent with this. CXR mildly improved with persistent R sided
   effusion. Given patient
s underlying emphysema, will treat as COPD
   exacerbation. The patient has been aggrerssively diuresed, and will
   slow down diuresis as UOP tapering off.
   - Continue ventimask at 80%, but try to wean down as tolerated.
   Non-invasive ventilation as needed. Pt is full code at this time, thus
   OK to ventilate in case of respiratory failure
   - Continue solumedrol (3 days, then slow taper) and levaquin Day 2
   (total 5 days) today for possible BOOP vs. COP.
   - Hold Lasix
   - F/U sputum cultures and cytology.
   - Continue Metoprolol for rate and BP control
   - Would like to add ACEI given severely depressed EF though will defer
   given ARF
   .
   #. NSTEMI.  Troponin-T peaked at 0.69.  Cardiology does not feel that
   patient currently has ACS.  Severely depressed EF and global
   hypokinesis indicative of longer-standing cardiomyopathy, likely
   ischemic in origin.
   - Continue with ASA and beta-blocker for now; no plavix or heparin per
   cardiology. F/U further cards recs.
   #. Acute renal failure.  SCr in [**2-17**] was 1.6; slowly trending downward
   to 2.0 today.  Etiology is unclear though hypoperfusion in setting
   troponin bump is possible.  Cr had been normalizing, but now increasing
   as UOP declines.
   - Follow daily serum Cr.
   #. Renal Mass with mediastinal LAD suspicious for RCC.  Pathology from
   [**3-7**] mediastinoscopy showed reactive lymph nodes, no tumor burden.
   Thoracic surgery aware patient is in house, will follow along. No
   contraindication to anticoagulation currently.
   - Urology will re-evaluate patient in several weeks when acute illness
   resolved; surgery still a possible option for consideration.
   - Discuss with outpatient oncologist
   #. Positive UTI: Given Cipro x 3 days. Urine culture negative, cipro
   d/c
   #. Hypernatremia: Likely due to aggressive diuresis with NPO status. On
   D5W with KCl replacement. Would prefer to give PO free water boluses.
   Given concern for aspiration, will place NGT today and start free water
   boluses.
   - Will hold off on more Lasix as patient clinically dry
   - Free water bolus via NG Tube.
   - Recheck lytes [**Hospital1 **].
   #. Elevated INR.  [**Month (only) 11**] be nutritional.  LFTs within normal limits which
   would argue against liver involvement of tumor.
   #. Anemia.  Chronic and normocytic .
   - Hct stable at 30. Will continue to monitor.
   #. Depression.  Continue sertraline.
   FEN: NPO as hypoxic off face mask and evidence of aspiration with meds.
   Continue tube feeds via NGT. Unable to do formal speech/swallow consult
   and patient cannot tolerate being off face mask. Check fingersticks w/
   ISS while on solumedrol.
   ACCESS: 2 PIV
   PROPHYLAXIS: Heparin sc, bowel regimen. PPI.
   CODE: Full code; discussed with patient, HCP (wife [**Name (NI) **] and son [**Doctor Last Name 2381**]
   DISPO: PT for OOB, maybe late callout to the Floor today
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2166-3-22**] 06:21 PM 25 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-3-22**] 07:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2166-03-23 10:39:00 Physician Attending Progress Note
Chief Complaint: respiratoyr distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo man with CAD, Dilated CM, COPD, ?renal cell CA, presented with
   hypoxemia respiratory distress, pulmonary infiltrates.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2166-3-22**] 02:01 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-3-22**] 10:00 PM
   Other medications:
   zoloft
   lipitor
   asa
   tums
   lopressor
   medrop 125 q8
   prevacid
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-23**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 58 (58 - 81) bpm
   BP: 105/46(61) {89/46(57) - 129/78(83)} mmHg
   RR: 11 (9 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
             Total In:
                                                                  1,205 mL
                                                                    889 mL
   PO:
                                                                    120 mL
             TF:
                                                                     85 mL
                                                                    275 mL
   IVF:
                                                                    600 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    255 mL
   Urine:
                                                                  1,560 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -355 mL
                                                                    634 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 95%
   ABG: ///36/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : mild right>left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   287 K/uL
   185 mg/dL
   2.0 mg/dL
   36 mEq/L
   4.2 mEq/L
   88 mg/dL
   103 mEq/L
   150 mEq/L
   32.6 %
   7.5 K/uL
        [image002.jpg]
                             [**2166-3-19**]  05:59 PM
                             [**2166-3-19**]  09:03 PM
                             [**2166-3-20**]  05:15 AM
                             [**2166-3-20**]  12:29 PM
                             [**2166-3-21**]  02:00 AM
                             [**2166-3-21**]  10:01 AM
                             [**2166-3-22**]  02:17 AM
                             [**2166-3-22**]  08:01 AM
                             [**2166-3-22**]  03:56 PM
                             [**2166-3-23**]  03:12 AM
   WBC
   19.5
   17.8
   15.7
   11.4
   10.5
   7.5
   Hct
   30.5
   29.5
   28.0
   30.3
   30.1
   32.6
   Plt
   [**Telephone/Fax (2) 4800**]
   Cr
   2.4
   2.4
   2.4
   2.3
   2.0
   1.8
   2.0
   TropT
   0.67
   0.67
   0.69
   TCO2
   27
   34
   36
   Glucose
   129
   132
   122
   102
   87
   151
   185
   Other labs: PT / PTT / INR:16.8/31.3/1.5, CK / CKMB /
   Troponin-T:126/5/0.69, Differential-Neuts:90.9 %, Lymph:6.8 %, Mono:1.9
   %, Eos:0.4 %, Lactic Acid:1.3 mmol/L, Ca++:8.9 mg/dL, Mg++:2.7 mg/dL,
   PO4:5.2 mg/dL
   Assessment and Plan
   Respiratory distress/hypoxemia:  improved today, requiring less
   oxygen.  [**Month (only) 11**] be due to solumedrol given possibility of inflammatory
   process such as BOOP/COP given prior PET findings.
   Continue.    Complete 5 day course of levoflox - doubt this was PNA,
   but reasonable to treat.
   Renal failure:  Likely is pretty dry now, but given CM, will hold off
   on NS, give free water for hypernatremia and hold off on further lasix.
   dilatted CM.
   COPD
   renal cell CA
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2166-3-22**] 06:21 PM 34 mL/hour
   Comments: continue TFs
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-3-22**] 07:02 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2166-03-24 05:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Shovelmask transitioned to NC 4L
 tolerated overnight
   - Hypernatremia was improving (148 -> 150 this AM)
   - Aspirating during med administration, so needs S/S eval in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2166-3-22**] 02:01 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-3-23**] 10:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-24**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 66 (56 - 73) bpm
   BP: 75/56(60) {75/43(55) - 126/58(73)} mmHg
   RR: 19 (9 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
                  Total In:
                                                                  1,963 mL
                                                                    201 mL
   PO:
                                                                     30 mL
                  TF:
                                                                    753 mL
                                                                    201 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    200 mL
   Urine:
                                                                    820 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,143 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///37/
   Physical Examination
   GENERAL: Awake, alert. Resting with nasal cannula on. In good spirits
   HEENT: MMM. Clear oropharynx.
   NECK: Flat neck veins.
   CARDIAC: RRR, nl S1 and S2. No murmurs
   LUNGS: Scattered dry crackles bilaterally. No wheezes. Decreased breath
   sounds RL base.
   EXTREMITIES: Warm. No edema. Radial pulses 2+ R and 1+ L. DP pulses 2+.
   Labs / Radiology
   231 K/uL
   9.7 g/dL
   217 mg/dL
   2.1 mg/dL
   37 mEq/L
   3.6 mEq/L
   98 mg/dL
   103 mEq/L
   148 mEq/L
   29.3 %
   12.8 K/uL
        [image002.jpg]
                             [**2166-3-20**]  05:15 AM
                             [**2166-3-20**]  12:29 PM
                             [**2166-3-21**]  02:00 AM
                             [**2166-3-21**]  10:01 AM
                             [**2166-3-22**]  02:17 AM
                             [**2166-3-22**]  08:01 AM
                             [**2166-3-22**]  03:56 PM
                             [**2166-3-23**]  03:12 AM
                             [**2166-3-23**]  04:00 PM
                             [**2166-3-24**]  03:48 AM
   WBC
   17.8
   15.7
   11.4
   10.5
   7.5
   12.8
   Hct
   29.5
   28.0
   30.3
   30.1
   32.6
   29.3
   Plt
   342
   308
   284
   [**Telephone/Fax (3) 4819**]
   Cr
   2.4
   2.4
   2.3
   2.0
   1.8
   2.0
   2.1
   TropT
   0.67
   0.69
   TCO2
   34
   36
   Glucose
   132
   122
   102
   87
   151
   185
   217
   Other labs: PT / PTT / INR:16.4/29.0/1.5, CK / CKMB /
   Troponin-T:126/5/0.69, Differential-Neuts:90.9 %, Lymph:6.8 %, Mono:1.9
   %, Eos:0.4 %, Lactic Acid:1.3 mmol/L, Ca++:8.8 mg/dL, Mg++:2.8 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   86M with history of HTN, former smoker, and likely metastatic RCC who
   presented with possible NSTEMI and hypoxia, found to have depressed EF
   and transferred to ICU for respiratory distress and hypoxia.
   #. Hypoxia.  Has had increasing outpatient O2 requirement over last few
   months with more acute worsening a few days ago.  Received
   pre-catheterization hydration and blood products in the setting of EF
   10-15%.  Hypoxia somewhat improved after aggressive diuresis. Has
   underlying COPD. Concern for pulmonary fibrosis, but CT chest showed
   severe emphysema and evidence of CHF,  not fibrosis. Also there is
   component for lymphangitic spread of renal tumor, but PET scan does not
   seem consistent with this. CXR mildly improved with persistent R sided
   effusion. Given patient
s underlying emphysema, will treat as COPD
   exacerbation. The patient has been aggrerssively diuresed, and will
   slow down diuresis as UOP tapering off.
   - Continue ventimask at 80%, but try to wean down as tolerated.
   Non-invasive ventilation as needed. Pt is full code at this time, thus
   OK to ventilate in case of respiratory failure
   - Continue solumedrol (3 days, then slow taper) and levaquin Day 2
   (total 5 days) today for possible BOOP vs. COP.
   - Hold Lasix
   - F/U sputum cultures and cytology.
   - Continue Metoprolol for rate and BP control
   - Would like to add ACEI given severely depressed EF though will defer
   given ARF
   .
   #. NSTEMI.  Troponin-T peaked at 0.69.  Cardiology does not feel that
   patient currently has ACS.  Severely depressed EF and global
   hypokinesis indicative of longer-standing cardiomyopathy, likely
   ischemic in origin.
   - Continue with ASA and beta-blocker for now; no plavix or heparin per
   cardiology. F/U further cards recs.
   #. Acute renal failure.  SCr in [**2-17**] was 1.6; slowly trending downward
   to 2.0 today.  Etiology is unclear though hypoperfusion in setting
   troponin bump is possible.  Cr had been normalizing, but now increasing
   as UOP declines.
   - Follow daily serum Cr.
   #. Renal Mass with mediastinal LAD suspicious for RCC.  Pathology from
   [**3-7**] mediastinoscopy showed reactive lymph nodes, no tumor burden.
   Thoracic surgery aware patient is in house, will follow along. No
   contraindication to anticoagulation currently.
   - Urology will re-evaluate patient in several weeks when acute illness
   resolved; surgery still a possible option for consideration.
   - Discuss with outpatient oncologist
   #. Positive UTI: Given Cipro x 3 days. Urine culture negative, cipro
   d/c
   #. Hypernatremia: Likely due to aggressive diuresis with NPO status. On
   D5W with KCl replacement. Would prefer to give PO free water boluses.
   Given concern for aspiration, will place NGT today and start free water
   boluses.
   - Will hold off on more Lasix as patient clinically dry
   - Free water bolus via NG Tube.
   - Recheck lytes [**Hospital1 **].
   #. Elevated INR.  [**Month (only) 11**] be nutritional.  LFTs within normal limits which
   would argue against liver involvement of tumor.
   #. Anemia.  Chronic and normocytic .
   - Hct stable at 30. Will continue to monitor.
   #. Depression.  Continue sertraline.
   FEN: NPO as hypoxic off face mask and evidence of aspiration with meds.
   Continue tube feeds via NGT. Unable to do formal speech/swallow consult
   and patient cannot tolerate being off face mask. Check fingersticks w/
   ISS while on solumedrol.
   ACCESS: 2 PIV
   PROPHYLAXIS: Heparin sc, bowel regimen. PPI.
   CODE: Full code; discussed with patient, HCP (wife [**Name (NI) **] and son [**Doctor Last Name 2381**]
   DISPO: PT for OOB, maybe late callout to the Floor today
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2166-3-24**] 12:06 AM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-3-23**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2166-03-24 09:17:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient to Nasal Cannula O2
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2166-3-22**] 02:01 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-3-24**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2166-3-24**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 71 (56 - 71) bpm
   BP: 133/62(79) {75/43(55) - 133/62(79)} mmHg
   RR: 12 (9 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
                  Total In:
                                                                  1,963 mL
                                                                    569 mL
   PO:
                                                                     30 mL
                  TF:
                                                                    753 mL
                                                                    319 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    300 mL
   Urine:
                                                                    820 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,143 mL
                                                                    269 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///36/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   231 K/uL
   177 mg/dL
   2.0 mg/dL
   36 mEq/L
   3.8 mEq/L
   102 mg/dL
   105 mEq/L
   150 mEq/L
   29.3 %
   12.8 K/uL
        [image002.jpg]
                             [**2166-3-20**]  05:15 AM
                             [**2166-3-20**]  12:29 PM
                             [**2166-3-21**]  02:00 AM
                             [**2166-3-21**]  10:01 AM
                             [**2166-3-22**]  02:17 AM
                             [**2166-3-22**]  08:01 AM
                             [**2166-3-22**]  03:56 PM
                             [**2166-3-23**]  03:12 AM
                             [**2166-3-23**]  04:00 PM
                             [**2166-3-24**]  03:48 AM
   WBC
   17.8
   15.7
   11.4
   10.5
   7.5
   12.8
   Hct
   29.5
   28.0
   30.3
   30.1
   32.6
   29.3
   Plt
   342
   308
   284
   [**Telephone/Fax (3) 4819**]
   Cr
   2.4
   2.4
   2.3
   2.0
   1.8
   2.0
   2.1
   2.0
   TropT
   0.67
   0.69
   TCO2
   34
   36
   Glucose
   132
   122
   102
   87
   151
   185
   217
   177
   Other labs: PT / PTT / INR:16.4/29.0/1.5, CK / CKMB /
   Troponin-T:126/5/0.69, Differential-Neuts:90.9 %, Lymph:6.8 %, Mono:1.9
   %, Eos:0.4 %, Lactic Acid:1.3 mmol/L, Ca++:8.8 mg/dL, Mg++:2.8 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   86 yo male with h/o COPD, HTN, CHF and admit with NSTEMI and
   respiratory failure (Hypoxemic) and now with reasonable stability of
   oxygenation off of invasive ventilatory support and has had ongoing
   issues of intermittent aspiration.
   1)Respiratory Failure
Dynamic improvement may be related to both
   infection and diffuse inflammatory process.
   -Levoflox to continue
   -Patient with hypovolemia
   -Steroid taper following 5 day course with Atrovent to continue for
   background COPD component
   2)CHF and Myocardial Ischemia-
   -ASA/Lopressor
   -return ACE with stabilization of renal function
   3)Acute Renal Failure-
   -Clinically hypovolemic
   -Will trend Cr
   -Renal Dose meds and avoid nephrotoxic medications
   4)Hypernatremia-
   -Free H2O today
   -[**Month (only) 11**] be continuing in the setting of volume depletion
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition: NGT
s, S+S eval prior to po intake
   Nutren Renal (Full) - [**2166-3-24**] 12:06 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2166-3-23**] 06:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes